US07314888B1
In a mixture of 7 ml of ethanol and 3 ml of tetrahydrofuran is dissolved 0.79 g of 3-{5-[1-(2,4-diisobutoxyphenyl)-3-ethoxy-3-oxo-1-propenyl]-2-isobutoxyphenyl}propanoic acid. After adding 8 ml of 5 mol/L sodium hydroxide solution, the mixture thus obtained is stirred at ambient temperature for 2.5 hours and then at 60° C. for 1.5 hours. Chloroform and water are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=2:1) to obtain 0.58 g of 3-[3-(2-carboxyethyl)-4-isobutoxyphenyl]-3-(2,4-diisobutoxyphenyl)-2-propenoic acid as a light yellow foaming product.

reactant | 3-{5-[1-(2,4-diisobutoxyphenyl)-3-ethoxy-3-oxo-1-propenyl]-2-isobutoxyphenyl}propanoic acid | 0.79 g | C(C(C)C)OC1=C(C=CC(=C1)OCC(C)C)C(=CC(=O)OCC)C=1C=CC(=C(C1)CCC(=O)O)OCC(C)C | C32H44O7
reactant | sodium hydroxide | 5 mol/L, 8 ml | [OH-].[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[3-(2-carboxyethyl)-4-isobutoxyphenyl]-3-(2,4-diisobutoxyphenyl)-2-propenoic acid | 0.58 g | C(=O)(O)CCC=1C=C(C=CC1OCC(C)C)C(=CC(=O)O)C1=C(C=C(C=C1)OCC(C)C)OCC(C)C | C30H40O7
